US04128562
192 g of ethyl α-carbethoxy-dithioacetate [Ber., Vol. 100 (1967), p. 1420] were added at 20° C. to a solution of 70 g of sodium methylate in one liter of methanol and after stirring for 5 minutes at 20° C., 76 g of chloroacetonitrile were added thereto. The mixture was stirred for 1 hour at 45° C. and 2 hours at 20° C. and after the addition of a solution of 70 g of sodium methylate in 500 ml of methanol, the mixture was stirred for 4 hours at 20° C. The mixture was evaporated to dryness under reduced pressure and the residue was dissolved in water. Toluene was added to the aqueous phase which was then acidified by addition of concentrated hydrochloric acid and the organic phase was rapidly separated by decanting. The organic phase was iced and vacuum filtered and the recovered crystals were dried to obtain 97 g of 2-cyano-3 -hydroxy-5-ethylthio-thiophene melting at 105° C. A microanalytically pure sample after crystallization from benzene melted at 105° C.

reactant | ethyl α-carbethoxy-dithioacetate | 192 g | C(=O)(OCC)CC(=S)SCC | C7H12O2S2
reactant | sodium methylate | 70 g | C[O-].[Na+]
reactant | chloroacetonitrile | 76 g | ClCC#N | C2H2ClN
reactant | sodium methylate | 70 g | C[O-].[Na+]
solvent | methanol | one liter | CO | CH4O
solvent | methanol | 500 ml | CO | CH4O
product | 2-cyano-3 -hydroxy-5-ethylthio-thiophene | 97 g | C(#N)C=1SC(=CC1O)SCC | C7H7NOS2
